US08183240B2
Step 9: 4-(2,4-dichlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile
4-(2,4-dichlorophenyl)-2-(3,6-dihydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile (20 mg, 0.05 mmol) was dissolved in methanol (2 mL) and 10% Pd/C was added (10 mg). The mixture was stirred under an atmosphere of hydrogen for 2 hours. The suspension was filtered through celite, solvent was evaporated and the residue was purified using ISCO chromatography on silica gel, elution 20% ethyl acetate in hexanes to ethyl acetate to afford the title compound (16 mg, 80%). LCMS: (FA) ES+, 405. 1H NMR (400 MHz, d4-methanol) δ: 8.53 (s, 1H), 7.78 (d, 1H), 7.51-7.46 (m, 2H), 4.12-4.08 (m, 1H), 3.99-3.95 (m, 1H), 3.53-3.30 (m, 2H), 3.20-3.15 (m, 1H), 2.00-1.95 (m, 1H), 1.83-1.72 (m, 1H).

reactant | 4-(2,4-dichlorophenyl)-2-(3,6-dihydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile | 0.05 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=CN1)C=1CCOCC1)C#N | C18H12Cl2N4OS
solvent | methanol | 2 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(2,4-dichlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile | 16 mg, 80% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=CN1)C1CCOCC1)C#N | C18H14Cl2N4OS
